US07435837B2
Treatment of 1-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (0.727 g, 2.49 mmol) with diisopropylethylamine (0.483 g, 3.73) and benzyl chloroformate (0.510 g, 2.99 mmol) generally according to the procedure described for Intermediate 12 provided 0.820 g of (±)-benzyl[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as a colorless oil. Rf=0.48 (silica, ethyl acetate:hexanes 1:5); Anal. calcd. for C24H23NO4: C, 74.02; H, 5.95; N, 3.60. Found: C, 73.66H, 6.13; N, 3.42. Chiral HPLC separation of (±)-benzyl[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate (Chiralcel AD, methanol) provided two fractions. Fraction 1 (Rt=7.386 min, Chiralcel AD, methanol); Fraction 2 (Rt=10.882 min, Chiralcel AD, methanol).

reactant | 1-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 2.49 mmol, 0.727 g | COC1=CC=C(C=C1)C1=CC=CC=2CC(OC21)CN | C16H17NO2
reactant | diisopropylethylamine | 0.483 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 2.99 mmol, 0.510 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 0.820 g | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)OC)=O | C24H23NO4
